data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7854,"C=C(CC(CCO[Si](C(C)C)(C(C)C)C(C)C)[O:1][CH:2]=[CH2:3])C[Si](C)(C)C.CC1CCC(CCOCC2=CC=CC=C2)OC1C[CH:4]=[O+:5][B-](F)(F)F.CCOCC|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2741,"CCO[C:1]1=[CH:2]C(O)C(C)(C)C[O:3]1.[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5862,"CC(=O)C1=C[C:1]([N+](=O)[O-])([H:2])[CH+:3]O1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9438,"COC1=C(C)C=C2CC3(C)C(=O)C(CCC3[N:1]3CCCC3)C2=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,199,"C1=CC2=C(C=C1)[O+:1]([H:2])C1(CCCCC1)O2.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,79,"CN[CH:1]([N:2](C)C)[OH2+:3].[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4809,"CCC(C=[O:1])(CCCNC(=O)CCl)CCC1=CC2=C(C=CC=C2)N1.O.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1653,"COC1(O)CCCC[O:1]1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5759,"N#[N+:1][CH2:2][C:3]1([OH:4])C2C=CC(O2)[CH2:5]1.O.O=S(=O)([O-])O.[Na+]|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6703,"C[P+:1](C)(C)[O:2][H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2148,"CC1=CC(C)C(C2=CC=CC=C2)([OH:1])O1.CC1=CC=CC=C1.O=S(=O)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8425,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC(=O)CCCC#CCC#CC[O-:2]|(2, 1)"
train,pmechdb_split_0,0,1568,"CCOC(=O)C(=C(C1=CC=CC=C1)C1=CC=CC=C1)[CH:1]=[C:2](OC)[O-:3].CO.FC(F)(F)C1=CC(C(F)(F)F)=CC([CH:4]=[O:5])=C1.[H][H].[Na+]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3707,"C[C:1](C)=[CH2:2].O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3350,"CN[C:1]1([O-:2])OCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4951,"C[CH+:1]C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,9371,"CCO[C:1](CCC(=O)OC(C)=O)([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7869,"C1CO[C:1]([NH2:2])([OH2+:3])OC1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,783,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]CC2=CC=C([N+](=O)[O-])C=C2)C=C1.O=CO|((2, 1), 1)"
train,pmechdb_split_0,0,9521,"CC(=O)[O-:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCC1CCC2C3CC([O+:2](C)[H:3])C45CC4CCC5(C)C3CCC12C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4054,"CC[O+:1](C)[Na:2]|((2, 1), 1)"
train,pmechdb_split_0,0,6198,"C[Si](C)(C)C[CH2:1][OH+:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,5608,"CC(C)C1([OH+:1][H:2])CCCC1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8854,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CO.COC(C1=CC=CC=C1)[O+:2](CC1OC(OC2C(N=[N+]=[N-])CC(N=[N+]=[N-])C(OC3OC(CN=[N+]=[N-])C(O)C(O)C3O)C2O)C(O)C(N=[N+]=[N-])C1O)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1323,"CO[C:1](OCCC[NH2:2])=[OH+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4058,"CC(=O)O[Si-](C)(C)(C)[O:1]C.C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,687,"CC(=O)OC(=O)CC[C:1](Cl)=[OH+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9397,"CC(=O)O.CC(=O)OI1(OC(C)=O)([O+:1](C2CCC34CC2CC3CCC2C(C)(C)C(=O)CCC24C)[H:2])OC(=O)C2=C1C=CC=C2.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3206,"CO[P+:1](O)(OC)OC(C)=O.[N-]=[N+]=[N-:2]|(2, 1)"
train,pmechdb_split_0,0,6149,"C=CC1(C)CCC(C)(C(C)C[CH:1]=[O+:2][Zn-]([Cl])[Cl])[C:3](C[Si](C)(C)C)=[CH:4]1.[Cl-]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4213,"COC(=O)CC1CC(CCO[Si](C)(C)C(C)(C)C)[O:1][C:2](C)([O-:3])O1.[Li+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3223,"CC1(C)CC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,268,"CC(C)NC(C)C.CC(CC(C)C(COCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)C(=O)N(C)C(C)C([OH+][Li:1])C1=CC=CC=C1.[I-].[Li][NH+](C(C)C)C(C)C.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,1167,"CC(=O)[O:1][H:2].CC[O:3]P(C)(C)(C)N(NC(=O)OC)C(=O)OC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6622,"C[N+:1](=CCCO)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5409,"C1=CC=[N:1]C=C1.CCC(C)[O+:2](S(=O)([O-])(OS(=O)(=O)C(F)(F)F)C(F)(F)F)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1581,"CC1=CCC(O)(C2=CC=CC=C2)[O+:1]1[H:2].O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2320,"C=CCC1[CH:1]([CH2:2][Li-2:3]2[N+](C)(C)CC[N+]2(C)C)[CH2:4]1|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,512,"CC(C)(Br)[C:1]([C:2](C)(C)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3045,"CC(=O)OCC1C(OC(C)=O)C(OC(C)=O)C(OC(C)=O)[CH:1]([Cl:2])[O:3]1.CCO.COC1=CC=C([O][K])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,168,"C#N.N#CC[CH:1]=[O:2].NC(N)=[NH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9756,"CCC=C[CH+:1]C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,2125,"CC[O:1][C:2](CCC(=O)N(C)C)(NC)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3862,"CC(C)[N-:1]C(C)C.C[CH:2]([N+](=O)[O-])[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6040,"O[CH:1]=[NH2+:2].[I-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6024,"CCOC(=O)CC(C1=CC=CC=C1)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
